US06956042B2
tert-Butyl 2,6-diazaspiro[4.4]nonane-2-carboxylate
A solution of t-butyl 6-benzyl-2,6-diazaspiro[4.4]nonane-2-carboxylate (1.70 g, 5.37 mmol) in methanol (30 mL) was mixed with 10% palladium on carbon (50 mg). The mixture was shaken under a hydrogen atmosphere (50 psi) in a Parr hydrogenation apparatus for 8 h and filtered through Celite. The filtrate was concentrated by rotary evaporation and high vacuum treatment, leaving 1.26 g of viscous, light brown oil (>100%), which was of sufficient purity to be used in the subsequent reaction.

reactant | t-butyl 6-benzyl-2,6-diazaspiro[4.4]nonane-2-carboxylate | 5.37 mmol, 1.70 g | C(C1=CC=CC=C1)N1C2(CCN(C2)C(=O)OC(C)(C)C)CCC1 | C19H28N2O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | tert-Butyl 2,6-diazaspiro[4.4]nonane-2-carboxylate | >100% | C1N(CCC12NCCC2)C(=O)OC(C)(C)C | C12H22N2O2
